US05455273
trans-4-[4-(3-Hydroxypropyl-methylaminomethyl)phenyl]-N-methyl-N-(4-trifluoromethylbenzoyl)cyclohexylamine
Whilst cooling with ice, a solution of 145 mg (0.69 mMol) of 4-trifluoromethylbenzoylchloride in a little methylene chloride is added dropwise to 200 mg (0.69 mMol) of trans-4-[4-(3-hydroxypropyl)-methylaminomethylphenyl]-N-methylcyclohexylamine and 0.1 ml (0.73 mMol) of triethylamine in 3 ml of methylene chloride and the resulting mixture is stirred for 2 hours at ambient temperature. After the reaction mixture has been diluted with ethyl acetate it is washed with water, 1N sodium hydroxide solution and saturated saline solution, then dried and evaporated down. The residue is purified by column chromatography (alumina, ethyl acetate/petroleum ether=1:1, v:v). 130 mg (40.8% of theory) of the title compound are obtained, melting point 87°-89° C.

reactant | 4-trifluoromethylbenzoylchloride | 0.69 mMol, 145 mg | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | trans-4-[4-(3-hydroxypropyl)-methylaminomethylphenyl]-N-methylcyclohexylamine | 0.69 mMol, 200 mg | OCCCC1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NC)CNC | C18H30N2O
reactant | triethylamine | 0.73 mMol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | trans-4-[4-(3-Hydroxypropyl-methylaminomethyl)phenyl]-N-methyl-N-(4-trifluoromethylbenzoyl)cyclohexylamine | OCCCC(C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N(C(C1=CC=C(C=C1)C(F)(F)F)=O)C)NC | C26H33F3N2O2
